* Simulation for THD

.lib tran1

VIN	inp 0 	SIN 0 2.5m 100 1m
VDD	vdd 0	PULSE 0 half 0 0.1n 0.1n 1.5015 2.002
VSS	0 vss	PULSE 0 half 0 0.1n 0.1n 1.5015 2.002
 
X1	s inp out vdd vss opamp
R1	s 0 valr1
R2	out s valr2
 
.PARAM half='psvoltage/2' valr1=10k valr2=10k
* .PARAM fs=100 tstop='9/fs' tstep='1/fs/1024'
* .TRAN tstep tstop
* .FFT V(out) START='tstop-8/fs' STOP=tstop NP='1024' WINDOW=HAMM FREQ=fs FMIN=fs FMAX=1000
* .MEAS FFT thd THD VM(out) NBHARM=10

.PARAM fs=100 tstop='9/fs' tres='1/fs/1024'
* 2026コンテストHPに合わせて修正
.TRAN 10n 1.001 START='1.001-10m'
.FOUR 100 V(out)

.endl tran1
